US06107329
5-Chloro-1H-indole-2-carboxylic acid {1-[(3-dimethylamino-propyl)-methyl-carbamoyl]-2-phenyl-ethyl}-amide
N,N,N'-Trimethyl-1,3-diaminopropane (0.31 mmol) and 2-[(5-chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid (0.28 mmol) were coupled according to Procedure A (0-25° C. reaction temperature, 120 hour reaction time) and the product purified by chromatography on silica gel eluted with 1-8% ethanol in dichloromethane containing 0.5% ammonium hydroxide: Yield 86 mg, 69%; HPLC (40/60) 7.57 minutes (>99%); mp 187-190.5° C.; TSPMS 441/443 (MH+, 100%);

reactant | N,N,N'-Trimethyl-1,3-diaminopropane | 0.31 mmol | CN(CCCNC)C | C6H16N2
reactant | 2-[(5-chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid | 0.28 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)NC(C(=O)O)CC1=CC=CC=C1 | C18H15ClN2O3
product | 5-Chloro-1H-indole-2-carboxylic acid {1-[(3-dimethylamino-propyl)-methyl-carbamoyl]-2-phenyl-ethyl}-amide | CN(CCCN(C(=O)C(CC1=CC=CC=C1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)C)C | C24H29ClN4O2
